// (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
// **************************************************************************
//* Version History:
//* 1.00: 09/23/2013 - Initial model creation
//* 1.01: 03/17/2014 - Changed "scale" to "scl" to avoid conflict with system parameters
//* 1.02: 05/28/2019 - Fixed a typo

simulator lang=spectre

subckt EPC8009 (gatein drainin sourcein)

parameters scl=50/25
parameters aWg=scl*25 A1=scl*1.593 k2=2.03 k3=0.177 rpara=0.16/scl 
+      aITc=0.0036 arTc=-0.0036 x0_0=1.02 x0_1=0.1789 x0_1_TC=0.004
+      dgs1=scl*4.3e-7 dgs2=scl*2.6e-13 dgs3=.8 dgs4=.23	  
+      ags1=(scl*17.8E-12 + 11.4E-12) ags2=scl*8.714E-12 ags3=1.51 ags4=0.22
+      ags5=scl*-1.62E-13 ags6=-4.86 ags7=3.092
+      agd1=scl*0.194E-12 agd2=scl*4.409E-12 agd3=-0.714 agd4=1.366
+      agd5=scl*0.863E-12 agd6=-5.999 agd7=3.914
+      asd1=(scl*4.404E-12 + 1.81E-12) asd2=scl*10.33E-12 asd3=-4.105 asd4=3.001
+      asd5=scl*6.68E-12 asd6=-31.31 asd7=20.89

rd (drainin drain) resistor r=(0.75*rpara*(1-arTc*(temp-25)))
rs (sourcein source) resistor r=(0.25*rpara*(1-arTc*(temp-25)))
rg (gatein gate) resistor r=(.6)

rcsdconv (drain source) resistor r=(1E9/aWg)
rcgsconv (gate source) resistor r=(1E9/aWg)
rcgdconv (gate drain) resistor r=(1E9/aWg)

gswitch drain source bsource i=( (v(drain,source)>0) ? 
+	(A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,source)-k2)/k3))* 
+	v(drain,source)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(temp-25))*v(gate,source),0.2)*v(drain,source)) ) : 
+	(-A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,drain)-k2)/k3))* 
+	v(source,drain)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(temp-25))*v(gate,drain),0.2)*v(source,drain)) ) )

ggsdiode gate source bsource i=( (v(gate,source)>10) ? 
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)))  )

ggddiode gate drain bsource i=( (v(gate,drain)>10) ? 
+	(0.5*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.5*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS  (gate source) bsource c=(ags1)  
G_CGS1 (gate source) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD  (gate drain) bsource c=(agd1)  
G_CGD1 (gate drain) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7)) )

C_SD  (source drain) bsource c=(asd1) 
G_CSD1 (source drain) bsource q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )


ends EPC8009
